US09079914B2
30-(8) Synthesis of (4S,4aS,5R,7aS)-7a-(2-fluoro-5-nitrophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-amine
(4S,4aS,5R,7aS)-7a-(2-fluorophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-amine (Preparation Example 30-(7)) (226 mg, 0.71 mmol) was dissolved in nitric acid (4.80 g, 76.20 mmol). The reaction was then stirred at RT for 90 min. LCMS (Agilent Method A) retention time 3.25 min, ES+: 364 [MH]+. The reaction was concentrated and purified by flash chromatography (Hexane/EtOAc 20-100%). 218 mg (84% yield) of the title compound (85%) and its isomer (15%) were isolated as a mixture.

reactant | (4S,4aS,5R,7aS)-7a-(2-fluorophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-amine | 0.71 mmol, 226 mg | FC1=C(C=CC=C1)[C@@]12N=C(O[C@@H]([C@@H]1[C@H](OC2)C)C(F)(F)F)N | C14H14F4N2O2
reactant | nitric acid | 76.20 mmol, 4.80 g | [N+](=O)(O)[O-] | HNO3
product | (4S,4aS,5R,7aS)-7a-(2-fluoro-5-nitrophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-amine | 218 mg, 84% yield | FC1=C(C=C(C=C1)[N+](=O)[O-])[C@@]12N=C(O[C@@H]([C@@H]1[C@H](OC2)C)C(F)(F)F)N | C14H13F4N3O4
